US08314240B2
435 mg of 6-(ethoxycarbonyl)pyridazine-3-carboxylic acid was dissolved in 11.0 mL of dimethoxyethane, and 0.424 mL of 4-methylmorpholine and 0.531 ml, of isobutyl chloroformate were added thereto at 0° C. After stirring at 0° C. for 2 hours, a suspension of 294 mg of sodium borohydride in water (2.50 mL) was added to the reaction liquid, followed by further stiffing at 0° C. for 20 minutes. To the reaction liquid was added water, followed by extraction with ethyl acetate, and the organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=97:3 to 90:10) to obtain 184 mg of ethyl 6-(hydroxymethyl)pyridazine-3-carboxylate.

reactant | 6-(ethoxycarbonyl)pyridazine-3-carboxylic acid | 435 mg | C(C)OC(=O)C1=CC=C(N=N1)C(=O)O | C8H8N2O4
reactant | 4-methylmorpholine | 0.424 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 294 mg | [BH4-].[Na+]
solvent | dimethoxyethane | 11.0 mL | C(OC)COC | C4H10O2
solvent | water | 2.50 mL | O | H2O
product | ethyl 6-(hydroxymethyl)pyridazine-3-carboxylate | 184 mg | OCC1=CC=C(N=N1)C(=O)OCC | C8H10N2O3
